US04837238
9-Chloro-5,6,7,8-tetrahydro-1H-pyrazolo[4,3-b]quinoline (D9)
4,5,6,7,8,9-Hexahydro-9-oxo-1H-pyrazolo[4,3-b]quinoline (5.0 g, 0.026 mole) was treated with phosphoryl chloride (40 ml) and the mixture heated under reflux for 30 minutes. The excess reagent was evaporated off and the residue treated with water (30 ml) and then made basic by the addition of sodium carbonate solution. The solid was filtered off, washed with water, dried and recrystallised from ethyl acetate to give the title compound as a yellow solid (4.85 g, 88%), m.p. 190°-193° C. Found: C, 57.85; H, 4.95; N, 20.00; Cl, 16.95% C10H10ClN3 requires C, 57.85; H, 4.85; N, 20.25; Cl, 17.20%

reactant | 4,5,6,7,8,9-Hexahydro-9-oxo-1H-pyrazolo[4,3-b]quinoline | 0.026 mole, 5.0 g | O=C1C2=C(NC=3CCCCC13)C=NN2 | C10H11N3O
reactant | phosphoryl chloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 9-Chloro-5,6,7,8-tetrahydro-1H-pyrazolo[4,3-b]quinoline | 4.85 g, 88% | ClC1=C2C(=NC=3CCCCC13)C=NN2 | C10H10ClN3
